US06756372B2
(a) N-(4-methoxy-thiobenzoyl)acetamide
A solution of acetyl chloride (4.69 g, 59.8 mmol) in acetone (20 mL) was added dropwise to a solution of 4-methoxythiobenzamide (5.00 g, 29.9 mmol) and pyridine (4.76 g, 60.1 mmol) in acetone (30 mL). The reaction mixture was heated to reflux for 30 min then poured onto ice water. The resulting precipitate was isolated via filtration and dried under vacuum overnight to provide a light yellow/orange solid (4.52 g, 72%). 1H NMR (400 MHz, CDCl3) δ2.56 (s, 3H), 3.87 (s, 3H), 6.89 (dd, J=6.9, 2.0 Hz, 2H), (dd, J=6.9, 2.0 Hz, 2H).

reactant | acetyl chloride | 59.8 mmol, 4.69 g | C(C)(=O)Cl | C2H3ClO
reactant | 4-methoxythiobenzamide | 29.9 mmol, 5.00 g | COC1=CC=C(C(=S)N)C=C1 | C8H9NOS
reactant | pyridine | 60.1 mmol, 4.76 g | N1=CC=CC=C1 | C5H5N
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | N-(4-methoxy-thiobenzoyl)acetamide | 4.52 g, 72% | COC1=CC=C(C(=S)NC(C)=O)C=C1 | C10H11NO2S
